US08754079B2
XXXXX.2. 3-(5-Fluoro-2-nitrophenoxy)cyclopentane-1,2-diol
AD-mix-alpha (7.57 g) was added to t-butanol (20.0 ml) and water (25.0 ml) and stirred for 10 min. The mixture was cooled to 0° C. and 2-(cyclopent-2-enyloxy)-4-fluoro-1-nitrobenzene (1.21 g) was added. After stirring at room temperature overnight the mixture was recooled at 0° C. and sodium metabisulfite (8.13 g) was added. After 10 min the reaction mixture was stirred at room temperature for 1 h and extracted with EtOAc. The combined organic extracts were washed with brine passed through a hydrophobic frit and concentrated in vacuo to yield the desired product.

reactant | AD-mix-alpha | 7.57 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | t-butanol | 20.0 ml | C(C)(C)(C)O | C4H10O
reactant | 2-(cyclopent-2-enyloxy)-4-fluoro-1-nitrobenzene | 1.21 g | C1(C=CCC1)OC1=C(C=CC(=C1)F)[N+](=O)[O-] | C11H10FNO3
reactant | sodium metabisulfite | 8.13 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 25.0 ml | O | H2O
product | 3-(5-Fluoro-2-nitrophenoxy)cyclopentane-1,2-diol | FC=1C=CC(=C(OC2C(C(CC2)O)O)C1)[N+](=O)[O-] | C11H12FNO5
